US04713396
1-(2,5-dichloro-3-trifluoromethylphenyl)-3-(2,6-difluorothiobenzoyl) urea (Compound No. 25)
To a solution of 5-(2,6-difluorophenyl)-1,2,4-dithiazole-3-one (0.9 g) in 20 ml of dichloromethane was added dropwise a solution of 2,5-dichloro-3-trifluoromethylaniline (0.9 g) and tributylphosphine (0.8 g) in 10 ml of dichloromethane under ice-cooling and the solution was stirred for 30 minutes at room temperature. The dichloromethane was then distilled off under reduced pressure and to the residue was added ligroin. The precipitated crystal was filtered and the crystal was washed with ligroin to obtain the desired product 1.3 g. (d.p. 176°-177° C.)

reactant | 5-(2,6-difluorophenyl)-1,2,4-dithiazole-3-one | 0.9 g | FC1=C(C(=CC=C1)F)C1=NC(SS1)=O | C8H3F2NOS2
reactant | 2,5-dichloro-3-trifluoromethylaniline | 0.9 g | ClC1=C(N)C=C(C=C1C(F)(F)F)Cl | C7H4Cl2F3N
reactant | tributylphosphine | 0.8 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(2,5-dichloro-3-trifluoromethylphenyl)-3-(2,6-difluorothiobenzoyl) urea | 1.3 g | ClC1=C(C=C(C=C1C(F)(F)F)Cl)NC(=O)NC(C1=C(C=CC=C1F)F)=S | C15H7Cl2F5N2OS
